US09315490B2
341a) (1-(5-Bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(pyrrolidin-1-yl)methanone
HATU (3.1 g, 8.24 mmol), diisopropylethylamine (3.6 ml, 20.6 mmol) and pyrrolidine (0.6 g, 8.24 mmol) were added to an ice cooled suspension of 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylic acid (2.5 g, 6.86 mmol) in DMF (20 mL). The resulting mixture was stirred at room temperature for 16 h and then quenched with crushed ice. The precipitating solid was filtered off, washed with water and dissolved in dichloromethane. The organic phase was dried over sodium sulfate and evaporated. White solid. Yield: 2.1 g (73% of theory)

reactant | HATU | 8.24 mmol, 3.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 20.6 mmol, 3.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | 8.24 mmol, 0.6 g | N1CCCC1 | C4H9N
reactant | 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylic acid | 6.86 mmol, 2.5 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)SC | C14H10BrN3O2S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (1-(5-Bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(pyrrolidin-1-yl)methanone | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCCC1)SC | C18H17BrN4OS
